US06403814B1
To a solution of (±)-trans-2-(3-benzyloxy-4-propoxy-5-propylsulfonylphenyl)-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran (6.35 g, 10.87 mol) in ethyl acetate (50 ml) was added 10% pd/c (0.80 g). The reaction mixture was stirred at room temperature under balloon pressure for 2 h. The Pd/C was filtered through celite and washed with ethyl acetate (80 ml). The filtrate was concentrated and the crude product was purified through silica gel column using Ethyl acetate:light petroleum (1:3) to give (±)-trans-2-(3-hydroxy-4-propoxy-5-propylsulfonylphenyl)-5-(3,4,5-trimethoxyphenyl tetrahydrofuran as a solid (3.30 g, 61%). TLC: Ethyl acetate:light petroleum (3:2), Rf=0.5 ; m.p. 115-117° C.; 1H NMR (CDCl3, 200 MHz): δ 0.95 (t, J=7.72 Hz, 3H), 1.0 (t, J=6.81 Hz, 3H), 1.6-1.95 (m, 6H), 2.3-2.42 (m, 2H), 3.25 (m, 2H), 3.75 (s, 3H), 3.80 (s, 6H), 4.03 (t, J=6.12 Hz, 2H), 5.0-5.13 (m, 2H), 6.28 (s, 1H), 6.5 (s, 2H), 7.18 (d, J=1.54 Hz, 1H), 7.34 (d, J=1.54 Hz, 1H); IR (neat): 3400, 2975, 2945, 2860, 1725, 1540, 1490, 1440 cm−1. FAB Mass: 495 (M+), HRMS:calculated 0.495.205265; found. 495.207215.

reactant | (±)-trans-2-(3-benzyloxy-4-propoxy-5-propylsulfonylphenyl)-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran | 10.87 mol, 6.35 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCCC)S(=O)(=O)CCC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C32H40O8S
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3,4,5-trimethoxyphenyl tetrahydrofuran | 3.30 g, 61% | COC=1C=C(C=C(C1OC)OC)C1OCCC1 | C13H18O4
